2178-04-02 07:02:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
   - talked with primary team, patient being anticoagulated for DVT; had
   thought about a possible filter, but will likely need anticoagulation
   indefinitely for afib so didn't pursue that
   - GI had plans to scope in future, no scheduled scope soon; last
   admission was when he had melena and fatigue, now has slow drifts in
   hct and guiac pos stools; transfused 1u [**3-25**] and 1u [**3-30**].  Yesterday he
   had a guaiac negative stool.
   - ID recommended adding on cipro or tobra for double coverage GNs if he
   deteriorates more
   - would consider PICC today
   - O/N maintains sats on facemask but then desats when removes from face
   - L sided lower back rash noted yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-4-1**] 08:00 AM
   Cefipime - [**2178-4-2**] 02:00 AM
   Metronidazole - [**2178-4-2**] 04:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2178-4-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-4-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 101 (99 - 119) bpm
   BP: 80/45(51) {79/37(48) - 119/77(85)} mmHg
   RR: 22 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  1,340 mL
                                                                    249 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  1,290 mL
                                                                    249 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    165 mL
   Urine:
                                                                  1,615 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -275 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: 7.27/65/56/27/0
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: NAD, lying on R side
   Pulm: Coarse with rhonchi R>L although moving more air than previously
   on the right
   Cardiovascular: irregularly irregular, S1S2 heard with 2/6 systolic
   murmur
   [**Last Name (un) **]:  soft, NT/ND, +BS
   Peripheral Vascular: pulses intact
   Extremities: b/l trace edema of lower extremities
   Skin:  erythematous, somewhat excoriated rash over back R>L, blanching
   Neurologic: Attentive, Follows simple commands, Oriented (to): X 3
   Labs / Radiology
   191 K/uL
   8.5 g/dL
   111 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   106 mEq/L
   141 mEq/L
   27.7 %
   24.8 K/uL
        [image002.jpg]
                             [**2178-4-1**]  12:04 AM
                             [**2178-4-1**]  07:50 AM
                             [**2178-4-1**]  07:57 AM
                             [**2178-4-1**]  05:52 PM
                             [**2178-4-1**]  06:44 PM
                             [**2178-4-2**]  03:38 AM
                             [**2178-4-2**]  06:16 AM
   WBC
   12.3
   25.1
   24.8
   Hct
   32.1
   27.3
   27.7
   Plt
   [**Telephone/Fax (3) 11829**]
   Cr
   1.6
   1.5
   TropT
   0.05
   0.13
   0.08
   TCO2
   32
   31
   Glucose
   117
   111
   Other labs: PT / PTT / INR:16.7/133.8/1.5, CK / CKMB /
   Troponin-T:29//0.08, Differential-Neuts:81.3 %, Lymph:9.3 %, Mono:8.7
   %, Eos:0.6 %, Lactic Acid:1.8 mmol/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   82 yo M with h/o COPD, AS s/p AVR, afib, right nephrectomy for RCC,
   colon ca s/p colectomy. Recent admission for PNA, re-admission for
   shortness of breath and fevers. Transferred to the MICU for hypoxia
   following bronchoscopy.
   # Acute respiratory distress: CXR somewhat improved. Based on CXR and
   recent bronchoscopy most likely mucus plugging worsened by underlying
   effusion, atelactasis and possible post-obstructive pneumonia. Patient
   has known DVT, but based on significant findings on CXR and current
   anticoagulation unlikely PE. Patient febrile on admission which could
   be related to recent bronchoscopy, however due to rising WBC will cover
   for HAP until BAL returns. No chest pain to suggest ACS or hypotension
   to suggest AVR dysfunction. Less likely CHF as CXR findings unilateral
   and symptoms acute on onset, however patient duiresising well to lasix
   given on floor. No abdominal pain and benign exam therefore unlikely
   abdominal pathology (recent obstructed hernia with demonstrated
   improvement on recent CT scan).    Cardiac enzymes 0.05
0.13
0.08
   - On Vancomycin 1 gram q24hour, Cefepime 2 g IV q12h, Flagyl 500 mg IV
   q8hr for HAP (flagyl based on ID recs and possible post-obstructive
   PNA).
   - Standing NEBs, humidity, chest PT, encourage cough, incentive
   spirometry
   - Position on left side for improved oxygenation
   - Pan-culture, follow BAL
   - Continue heparin drip
   - Follow respiratory status closely, if worsens consider intubation and
   bronch
   - If complains of abdominal pain consider KUB to assess hernia
   - try to ambulate if possible
   - PT consult
   # Fevers/leukocytosis: Patient with continued fevers on floor. Work-up
   so far unrevealing other than persistent RLL/RML opacities. Negative
   blood culture, urine culture and c. diff X thus far. Most likely
   etiology is post-obstructive pneumonia.  WBC doubled since yesterday,
   although pt. has been afebrile.
   - Treat HAP as above
   - Follow BAL
   - Appreciate ID recs
   - if clinically worsens plan to add tobra per ID recs
   # Ventral Hernia: Currently no abdominal pain, benign exam with bowel
   sounds. CT scan [**2178-3-27**] demonstrated partial colonic obstruction with
   CT scan [**2178-3-29**] demonstrating overall improvement.
   - Monitor abdominal exam, consider imaging if changes
   # Recent GI Bleed: HCT drop from 32
 27.7. Has gotten several fluid
   boluses and had heme negative stool yesterday.  No melena during this
   admission.
   - Patient high colonoscopy perforation risk due to colonic distension,
   discuss GI long-term plans. Per notes planning to do EGD this admission
   once patient stabilizes.
   - Continue IV pantoprazole [**Hospital1 **]
   - Active T&S
   - Guaiac stool
   - [**Hospital1 **] hct checks
   # DVT: Continue heparin drip for now. Could consider coumadin once GI
   plans are finalized.
    - once hct stable consider anticoagulation options
   # Chronic Diastolic CHF (EF>55%): Unlikely acute episode due to CXR
   findings and s/p bronch (see above).
   - continue holding Lasix per floor due to limited PO intake, consider
   restarting tomorrow
   - Low Na diet, strict I/O's, fluid restriction 1500cc
   # COPD: moderate to severe.
   - standing nebs prn
   - start spiriva
   # Afib: Rate controlled. Off coumadin temporarily per floor team,
   CHADS2 score is 3 and bioprosthetic valve. Echo showed no evidence of
   thrombus.  Pt. continues to be tachy in 110s.
   - restart metoprolol at half dose
   - continue dilt
   - continue heparin for now; consider coumadin if GI bleed stable
   # GERD: Continue pantoprazole.
   # CKD: At baseline.
   - renally dose all meds
   # Triple A: Stable, per vascular surgery will f/u with Dr. [**Last Name (STitle) **] as
   outpatient.
   # History of ITP: Currently within normal limits. Trend platelets.
   # FEN: No IVF, electrolytes prn, advance diet today and monitor for
   aspiration
   # Prophylaxis:
   -DVT ppx with IV heparin
   -Bowel regimen colace
   # Access: peripherals
    - plan for PICC tomorrow
   # Code: confirmed full
   # Communication: Patient
   # Emergency Contact: wife
   # Disposition: pending above
   ------ Protected Section ------
   # RASH: will watch for now
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 765**], MD
   on:[**2178-4-2**] 11:07 ------

2178-04-03 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started metoprolol, SBP 80s, stopped metoprolol
   Advanced diet
   d/w case management, screening for placement tomorrow
   ID recs: blood cx and vanc trough
   started spiriva/advair
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-4-1**] 08:00 AM
   Cefipime - [**2178-4-2**] 02:00 AM
   Metronidazole - [**2178-4-3**] 04:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-4-2**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-4-3**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 113 (99 - 123) bpm
   BP: 67/45(50) {67/37(44) - 122/72(82)} mmHg
   RR: 18 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
             Total In:
                                                                  2,028 mL
                                                                    200 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                  1,608 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    922 mL
                                                                    115 mL
   Urine:
                                                                    922 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,106 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Gen:  NAD, lying on R side
   Pulm:  Diffuse inspiratory and expiratory wheezing, R>L with rhonchi
   and decreased on the R
   CV:  irregularly irregular, S1S2 with 2/6 systolic murmur
   Abd:  large ventral hernia, reducible, soft and nontender
   Peripheral Vascular: pulses intact
   Skin:  stable erythematous rash on back, no pustules, no exudate
   Neurologic: A&Ox3, no focal defecits
   Labs / Radiology
   202 K/uL
   8.9 g/dL
   115 mg/dL
   1.6 mg/dL
   28 mEq/L
   3.5 mEq/L
   18 mg/dL
   107 mEq/L
   142 mEq/L
   28.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2178-4-1**]  12:04 AM
                             [**2178-4-1**]  07:50 AM
                             [**2178-4-1**]  07:57 AM
                             [**2178-4-1**]  05:52 PM
                             [**2178-4-1**]  06:44 PM
                             [**2178-4-2**]  03:38 AM
                             [**2178-4-2**]  06:16 AM
                             [**2178-4-2**]  07:08 PM
                             [**2178-4-3**]  03:24 AM
   WBC
   12.3
   25.1
   24.8
   24.2
   21.2
   Hct
   32.1
   27.3
   27.7
   27.6
   28.5
   Plt
   [**Telephone/Fax (3) 11836**]19
   202
   Cr
   1.6
   1.5
   1.6
   TropT
   0.05
   0.13
   0.08
   TCO2
   32
   31
   Glucose
   117
   111
   115
   Other labs: PT / PTT / INR:21.2/83.0/2.0, CK / CKMB /
   Troponin-T:29//0.08, Differential-Neuts:82.5 %, Lymph:6.4 %, Mono:10.3
   %, Eos:0.2 %, Lactic Acid:1.8 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   82 yo M with h/o COPD, AS s/p AVR, afib, right nephrectomy for RCC,
   colon ca s/p colectomy. Recent admission for PNA, re-admission for
   shortness of breath and fevers. Transferred to the MICU for hypoxia
   following bronchoscopy.
   # Acute respiratory distress: Clinically, similar to yesterday. CXR
   somewhat improved. Based on CXR and recent bronchoscopy most likely
   mucus plugging worsened by underlying effusion, atelactasis and
   possible post-obstructive pneumonia. Patient has known DVT, but based
   on significant findings on CXR and current anticoagulation unlikely PE.
   Patient febrile on admission which could be related to recent
   bronchoscopy, however due to rising WBC will cover for HAP until BAL
   returns. No chest pain to suggest ACS or hypotension to suggest AVR
   dysfunction. Less likely CHF as CXR findings unilateral and symptoms
   acute on onset, however patient duiresising well to lasix given on
   floor. No abdominal pain and benign exam therefore unlikely abdominal
   pathology (recent obstructed hernia with demonstrated improvement on
   recent CT scan).    Cardiac enzymes 0.05
0.13
0.08
   - On, Cefepime 2 g IV q12h, Flagyl 500 mg IV q8hr for HAP (flagyl based
   on ID recs and possible post-obstructive PNA).
   - Change vanc to 750 q12 (from 1000q12)
   - Standing NEBs, humidity, chest PT, encourage cough, OOB incentive
   spirometry
   - Position on left side for improved oxygenation
   - Follow BAL
   - Continue heparin drip
   - Follow respiratory status closely, if worsens consider intubation and
   bronch
   - If complains of abd apin
 consider KUB
   - try to ambulate
   - PT consulted; f/u recs
   # Tachycardia: ddx includes hypovolemia, secondary to infection (PNA).
   PE is also possibility given known DVT, but diagnosis would not change
   management at this point (patient is on heparin drip).
   - Bolus 1L NS and continue with maintenance fluid @ 100cc/hr
   - Check central/ mixed venous venous sat
   - Hold off on beta-blockers
   # Fevers/leukocytosis: Patient with continued fevers on floor. Work-up
   so far unrevealing other than persistent RLL/RML opacities. Negative
   blood culture, urine culture and c. diff X thus far. Most likely
   etiology is post-obstructive pneumonia.  WBC doubled since yesterday,
   although pt. has been afebrile.
   - Treat HAP as above
   - Follow BAL
   - Appreciate ID recs
   - if clinically worsens plan to add tobra per ID recs
   # DVT: on heparin drip for now. Could consider coumadin once GI plans
   are finalized.
   - Transition to lovenox today: 1mg/kg [**Hospital1 **]
   # Ventral Hernia: Currently no abdominal pain, benign exam with bowel
   sounds. CT scan [**2178-3-27**] demonstrated partial colonic obstruction with
   CT scan [**2178-3-29**] demonstrating overall improvement.
   - Monitor abdominal exam, consider imaging if changes
   # Recent GI Bleed: HCT drop from 32
 27.7. Has gotten several fluid
   boluses and had heme negative stool yesterday.  No melena during this
   admission.
   - Patient high colonoscopy perforation risk due to colonic distension,
   discuss GI long-term plans. Per notes planning to do EGD this admission
   once patient stabilizes.
   - Continue IV pantoprazole [**Hospital1 **]
   - Active T&S
   - Guaiac stool
   - [**Hospital1 **] hct checks
   # Chronic Diastolic CHF (EF>55%): Unlikely acute episode due to CXR
   findings and s/p bronch (see above).
   - continue holding Lasix per floor due to limited PO intake, consider
   restarting tomorrow
   - Low Na diet, strict I/O's, fluid restriction 1500cc
   # COPD: moderate to severe.
   - standing nebs prn, including spiriva and xopinex started today
   - Consider transitioning to PRN instead of standing xopinex due to
   persistent tachycardia.
   # Afib: Rate controlled. Off coumadin temporarily per floor team,
   CHADS2 score is 3 and bioprosthetic valve. Echo showed no evidence of
   thrombus.  Pt. continues to be tachy in 110s.
   - restart metoprolol at half dose, dogixin
   - continue diltiazem
   - transitioning from heparin drip to lovenox today
   - Dig level 0.8 today.
   # GERD: Continue pantoprazole.
   # CKD: At baseline.
   - renally dose all meds
   # Triple A: Stable, per vascular surgery will f/u with Dr. [**Last Name (STitle) **] as
   outpatient.
   # History of ITP: Currently within normal limits. Trend platelets.
   # FEN: No IVF, electrolytes prn, advance diet today and monitor for
   aspiration
   # Prophylaxis:
   -DVT ppx with lovenox/Coumadin switch today
   -Bowel regimen colace
   # Access: peripherals
    - plan for PICC tomorrow
   # Code: confirmed full
   # Communication: Patient
   # Emergency Contact: wife
   # Disposition: pending above